US07705030B2
Step a) Preparation of 2-Amino-5-(3-bromophenyl)-3-methyl-5-(5-propionyl-1-propyl-1H-pyrrol-3-yl)-3,5-dihydro-imidazol-4-one
Under a nitrogen atmosphere, to a solution of 2-amino-5-(3-bromo-phenyl)-3-methyl-5-(5-propionyl-1H-pyrrol-3-yl)-3,5-dihydro-imidazol-4-one (0.2 g, 0.51 mmol) in DMF (5 mL) was added Cs2CO3 (0.33 g, 1.02 mmol) and iodopropane (0.12 g, 0.70 mmol). The reaction mixture was sealed and stirred at room temperature for 20 hours. DMF was removed in vacuo, the residue was taken back CHCl3 and filtered. Evaporation and purification by combi flash chromatography (methylene chloride/methyl alcohol/triethyl amine, 9.5/0.4/0.1) gave the title compound as a white solid (0.16 g, 72% yield), mp 260° C., 1H NMR (400 MHZ, CDCl3) δ 0.73 (t, 3H), 1.01 (t, 3H), 1.03 (q, 2H), 2.66 (m, 2H), 2.91 (s, 3H), 4.12 (q, 2H), 6.6 (bs, 2H), 6.87 (s, 1H), 6.98 (s, 1H), 7.23 (m, 1H), 7.37 (m, 1H), 7.45 (m, 1H), 7.57 (m, 1H), MS m/e (M−H)− 429.1.

reactant | 2-amino-5-(3-bromo-phenyl)-3-methyl-5-(5-propionyl-1H-pyrrol-3-yl)-3,5-dihydro-imidazol-4-one | 0.51 mmol, 0.2 g | NC1=NC(C(N1C)=O)(C1=CNC(=C1)C(CC)=O)C1=CC(=CC=C1)Br | C17H17BrN4O2
reactant | Cs2CO3 | 1.02 mmol, 0.33 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodopropane | 0.70 mmol, 0.12 g | ICCC | C3H7I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Amino-5-(3-bromophenyl)-3-methyl-5-(5-propionyl-1-propyl-1H-pyrrol-3-yl)-3,5-dihydro-imidazol-4-one | 0.16 g, 72% yield | NC1=NC(C(N1C)=O)(C1=CN(C(=C1)C(CC)=O)CCC)C1=CC(=CC=C1)Br | C20H23BrN4O2
